US05710162
Synthesis of 6-chloro-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on
A mixture of 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid obtained in reference example 1 (10 g, 32.3 mmol) and phosphorous oxychloride (100 ml, 1.07 mol) was refluxed with heat for 4 hours. The reaction mixture was distilled to dryness and washed with n-hexane several times. To the residue obtained was added 50 g of polyphosphoric acid, and the mixture was heated at 90° C. for 2 hours. The reaction mixture was poured into ice water to filtrate a crystal precipitated. The crystal obtained was dissolved in tetrahydrofuran to filter off undissolved substances, and purified by silica gel column chromatography (eluent: chloroform) to give 6.0 g (yield 59.9%) of the title compound.

reactant | 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid | C1OC=2C=C(C=CC2O1)C1=C(C(NC2=CC=CC=C12)=O)C(=O)O | C17H11NO5
reactant | phosphorous oxychloride | 1.07 mol, 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-chloro-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on | 6.0 g, yield 59.9% | ClC1=NC2=CC=CC=C2C2=C1C(C1=CC3=C(C=C12)OCO3)=O | C17H8ClNO3
